US07144899B2
Step C: N-(tert-butoxycarbonyl)-2-methylleucyl-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide
A mixture of 2-tert-butyloxycarbonylamino-2,4-dimethylpentanoic acid (120 mg, 0.49 mmol), N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide (150 mg, 0.49 mmol, 1.0 equiv), EDC (141 mg, 0.73 mmol, 1.5 equiv) and HOAt (33 mg, 0.24 mmol, 0.5 equiv) in DMF (1 ml) was brought to pH 8 by dropwise addition of Hünig's Base and stirred at room temperature for 18 h. The solvent was removed in vacuo, and the resulting oil was purified by silica gel chromatography (50% EtOAc-hexanes to 70% EtOAc-hexanes to EtOAc) to afford the two separate diastereomers as white solids. Diastereomer A (less polar): 1H NMR (300 MHz, CDCl3): δ 9.32 (s, 1 H), 8.10 (t, J=5.4 Hz, 1 H), 7.72 (d, J=2.1 Hz, 1 H), 7.40 (dd, J=2.1, 8.1 Hz, 1 H), 7.27 (d, J=8.1 Hz, 1 H), 5.03 (s, 1 H), 4.55–4.50 (m, 1 H), 4.23 (dd, J=6.3, 15.3 Hz, 1 H), 4.01 (dd, J=5.1, 15.3 Hz, 1 H), 3.84–3.79 (m, 1 H), 3.55–3.52 (m, 1 H), 2.22–2.12 (m, 1 H), 1.95–1.68 (m, 5 H), 1.59 (s, 3 H), 1.51–1.45 (m, 1 H), 1.34 (s, 9 H), 0.98 (d, J=6.6 Hz, 3 H), 0.85 (d, J=6.3 Hz, 3 H). Diastereomer B (more polar): 1H NMR (300 MHz, CDCl3): δ 9.29 (s, 1 H), 8.11–8.08 (m, 1 H), 7.70 (d, J=2.1 Hz, 1 H), 7.39 (dd, J=2.1, 8.4 Hz, 1 H), 7.26 (d, J=8.4 Hz, 1 H), 5.21 (s, 1 H), 4.59–4.54 (m, 1 H), 4.25 (dd, J=6.3, 15.3 Hz, 1 H), 4.00 (dd, J=4.8, 15.3 Hz, 1 H), 3.85–3.79 (m, 1 H), 3.53–3.49 (m, 1 H), 2.24–2.22 (m, 1 H), 1.97–1.83 (m, 5 H), 1.66–1.60 (m, 1 H), 1.39 (s, 3 H), 1.36 (s, 9 H), 0.97 (d, J=6.3 Hz, 3 H), 0.91 (d, J=6.6Hz, 3 H). Diastereomeric mixture: LCMS (M+H): 534.0.

reactant | 2-tert-butyloxycarbonylamino-2,4-dimethylpentanoic acid | 0.49 mmol, 120 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC(C)C)C | C12H23NO4
reactant | N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide | 0.49 mmol, 150 mg, 1.0 equiv | ClC=1C=CC(=C(CNC([C@H]2NCCC2)=O)C1)N1N=NN=C1 | C13H15ClN6O
reactant | EDC | 0.73 mmol, 141 mg, 1.5 equiv
reactant | HOAt | 0.24 mmol, 33 mg, 0.5 equiv | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Hünig's Base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(tert-butoxycarbonyl)-2-methylleucyl-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@](CC(C)C)(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)N2N=NN=C2)CCC1)C | C25H36ClN7O4
